US04406908
In 150 ml. of dry dimethylformamide was dissolved 9.35 g. of 3-cyano-8-hydroxycoumarin. To the resulting solution was added 2.5 g. of about 60% sodium hydride with agitation and ice-cooling, and after raising to room temperature, the solution was agitated for 20 minutes. After adding dropwise 9.05 g. of 3-acetoxypropyl bromide at a temperature of 80° to 90° C. with agitation, the reaction was carried out for 5 hours with agitation. After the completion of the reaction, the reaction mixture was poured into 200 ml. of water added with ice, and extracted with three 200 ml. portions of methylene chloride. The obtained extract was dried with magnesium sulfate, and the solvent was then distilled away under reduced pressure. The residue was purified by a silica-gel column chromatography (silica-gel: 350 g., eluent: methylene chloride) to give 3-cyano-8-(3-acetoxypropoxy)coumarin (yield: 25%). The product was further recrystallized from ethyl acetate to give light yellow needles having a melting point of 132° to 135° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 3-cyano-8-hydroxycoumarin | C(#N)C=1C(OC2=C(C=CC=C2C1)O)=O | C10H5NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 3-acetoxypropyl bromide | C(C)(=O)OCCCBr | C5H9BrO2
solvent | water | O | H2O
product | 3-cyano-8-(3-acetoxypropoxy)coumarin | yield: 25% | C(#N)C=1C(OC2=C(C=CC=C2C1)OCCCOC(C)=O)=O | C15H13NO5
